US07863313B2
To a solution of 4′-hydroxypropiophenone (1.0 g, 6.67 mmol) in acetonitrile (50.0 mL) was added potassium carbonate (7.17 g, 66.7 mmol) and the mixture heated to reflux for 90 min. After this time the reaction mixture was allowed to cool to room temperature and dimethyl sulphate (1.05 mL, 11.1 mmol) was added and the reaction mixture was heated to reflux for a further 19 h. After cooling the acetonitrile was evaporated under reduced pressure and the residue taken up in water and extracted with dichloromethane. The dichloromethane extract was dried (MgSO4) and evaporated under reduced pressure to give 4′-methoxypropiophenone as a yellow oil, (970 mg, 89%) 1H nmr (d6-DMSO, 300 MHz) 1.06, t (7.2 Hz), CH3; 2.95, q (7.2 Hz), CH2; 3.83, s, OMe; 7.02, d (6.9 Hz), H3′,5′; 7.93, d (6.9 Hz), H2′,6′. ESI (+ve) MS m/z 165 (M+H, 100%).

reactant | 4′-hydroxypropiophenone | 6.67 mmol, 1.0 g | OC1=CC=C(C=C1)C(CC)=O | C9H10O2
reactant | potassium carbonate | 66.7 mmol, 7.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 11.1 mmol, 1.05 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetonitrile | 50.0 mL | C(C)#N | C2H3N
product | 4′-methoxypropiophenone | COC1=CC=C(C=C1)C(CC)=O | C10H12O2
